US07759339B2
(1-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)cyclobutyl)methanol
Ethyl 1-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)cyclobutanecarboxylate was dissolved in THF (1 ml). Lithium aluminum hydride (0.5 ml, 1.0 M in THF) was added at 0° C. The reaction mixture was stirred at 0° C. for 45 minutes. It was quenched by careful addition of H2O at 0° C. The mixture was stirred for another 30 minutes before 1N NaOH and equal volume of brine were added. The mixture was extracted with EtOAc three times. Combined organic layers were dried over MgSO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography (SiO2, 7% MeOH/CH2Cl2) to give the title compound (20 mg, 8% 3 steps) as a white solid. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm: 1.38-1.48 (m, 1 H), 1.67-1.78 (m, 1 H), 1.80-1.89 (m, 1 H), 1.91-2.00 (m, 1 H), 2.34-2.51 (m, 4 H), 2.56-2.68 (m, 2 H), 2.64 (bs, 1 H), 3.28-3.31 (m, 4 H), 3.57 (ddd, J=16.8, 10.9, 5.9 Hz, 2 H), 7.36-7.41 (m, 1 H), 7.45-7.53 (m, 2 H), 8.01 (dd, J=7.8, 1.5 Hz, 1 H); ESI-MS: m/z 345.3 (M+H)+.

reactant | Ethyl 1-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)cyclobutanecarboxylate | ClC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C1(CCC1)C(=O)OCC | C17H23ClN2O4S
reactant | Lithium aluminum hydride | 1.0 M, 0.5 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (1-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)cyclobutyl)methanol | 20 mg, 8% | ClC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C1(CCC1)CO | C15H21ClN2O3S
